US05736534
To 6-chloroindoline hydrochloride (1 00 mg, 0.526 mmol) and pyridine (0.957 mmol, 77 μL) in dry i-PrOH (8 mL) was added 4-chloro-6,7-dimethoxyquinazoline (107 mg, 0.478 mmol). The mixture was refluxed for 2 hours under an atmosphere of dry N2(g) and then the solvent was removed in vacuo. The residue was partitioned between CHCl3 and 1M NaOH, and the organic phase was washed with brine, dried over Na2SO4(g) and concentrated in vacuo. The residue (171 mg) was purified by flash chromatography on silica using 80%EtOAc/CH2 Cl2 to yield 4-(6-chloro-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline as its free base (148 mg) (M.P. 229°-230° C.; LC-MS: 342 (MH+); anal. RP18-HPLC RT: 4.38 min.).

reactant | 6-chloroindoline hydrochloride | 0.526 mmol | Cl.ClC1=CC=C2CCNC2=C1
reactant | pyridine | 0.957 mmol, 77 μL | N1=CC=CC=C1 | C5H5N
reactant | 4-chloro-6,7-dimethoxyquinazoline | 0.478 mmol, 107 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | 8 mL | CC(C)O | C3H8O
product | 4-(6-chloro-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C18H16ClN3O2
